US05756528
Step C: N-[(t-Butyloxycarbonyl)-pyrrolidin-2(S)-ylmethyl]-(N-2-methylbenzyl)-glycine
N-[(t-Butyloxycarbonyl)-pyrrolidin-2(S)-ylmethyl]-(N-2-methylbenzyl)-glycine methyl ester (41.85 g, 0.111 mol) was dissolved in CH3OH (300 mL) at 0° C. and treated with 2N NaOH solution (111 mL, 0.222 mol) and allowed to stir at ambient temperature for 3 hr. 1N HCl (235 mL, 0.235 mol) was added, the CH3OH was removed on a rotary evaporator, and the residue was extracted with EtOAc (2×1.5 L), washed with brine, and dried (MgSO4). Filtration and concentration to dryness gave the title compound as a white solid. 1H NMR (CD3OD) δ 7.56 (d, 1H, J=7.5 Hz), 7.15-7.36 (m, 3H), 4.70 (d, 1H, J=13 Hz), 4.27 (d, 1H, J=13 Hz), 4.1-4.2 (m, 1H), 3.73 (d, 1H, J=16 Hz), 3.59 (d, 1H, J=16 Hz), 3.15-3.5 (m, 4H), 2.49 (s, 3H), 2.1-2.2 (m, 1H), 1.7-1.9 (m, 2H), 1.6-1.7 (m, 1H), 1.46 (s, 9h).

reactant | N-[(t-Butyloxycarbonyl)-pyrrolidin-2(S)-ylmethyl]-(N-2-methylbenzyl)-glycine methyl ester | 0.111 mol, 41.85 g | COC(CN(CC1=C(C=CC=C1)C)C([C@H]1NCCC1)C(=O)OC(C)(C)C)=O | C21H32N2O4
reactant | NaOH | 0.222 mol, 2N, 111 mL | [OH-].[Na+]
reactant | HCl | 0.235 mol, 1N, 235 mL | Cl | ClH
solvent | CH3OH | 300 mL | CO | CH4O
product | N-[(t-Butyloxycarbonyl)-pyrrolidin-2(S)-ylmethyl]-(N-2-methylbenzyl)-glycine | C(C)(C)(C)OC(=O)C(N(CC(=O)O)CC1=C(C=CC=C1)C)[C@H]1NCCC1 | C20H30N2O4
